US06974873B2
To 1.7 g of 2,3-dimethyl-6-sulfobenzothiazolium tosylate in 20 mL of pyridine at room temperature is added 1.03 mL of methyl 5-chloro-5-oxovalerate. The mixture is heated at 50-60° C. for 3 hours. The pyridine solvent is removed under reduced pressure, and the reaction is worked up with chloroform and brine, and purified by silica gel column to yield 0.92 g of 2-(5-methoxycarbonyl-2-oxopentylidene)-3-methyl-3H-benzothiazole. A mixture of 0.45 g of this benzothiazole and 0.45 g of phosphorous oxychloride in 5 mL of dichloroethane is heated at reflux for 2 hours to generate 2-(2-chloro-2-methoxycarbonylpropylvinyl)-3-methylbenzothiazolium chloride. The volatile components are evaporated and the crude chloride is used without further purification. The crude chloride and 0.45 g of 2,3,3,7-tetramethyl-3H-pyrrolo[2,3-b]pyridinium tosylate is stirred in 5 mL of dichloroethane in the presence of 0.45 mL of triethylamine for 2 hours. The volatile components are removed under reduced pressure, and the residue is dissolved in 5 mL of methanol and added dropwise to a solution of 4.5 g of sodium iodide in 30 mL water. The sticky solid is purified on a silica gel column to yield Compound 79.

reactant | 2,3-dimethyl-6-sulfobenzothiazolium tosylate | 1.7 g | S(=O)(=O)([O-])C1=CC=C(C)C=C1.CC=1SC2=C([N+]1C)C=CC(=C2)S(=O)(=O)O
reactant | methyl 5-chloro-5-oxovalerate | 1.03 mL | ClC(CCCC(=O)OC)=O | C6H9ClO3
solvent | pyridine | 20 mL | N1=CC=CC=C1 | C5H5N
product | 2-(5-methoxycarbonyl-2-oxopentylidene)-3-methyl-3H-benzothiazole | 0.92 g | COC(=O)CCCC(C=C1SC2=C(N1C)C=CC=C2)=O | C15H17NO3S
